Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.1228334616
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.2739688549
[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:13]/[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-1.7452411839300002
[C:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7]>>[C:1]#[C:2][C:4]([H:5])[C:6]#[C:7].[C:3],6.9267965440999975
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.2078530283600002
[O:1][C@:2]([H:3])([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@:2]([H:3])([C:4]#[C:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7],6.79672436429
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1],4.4820624065
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15],-5.2646573745300005
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],3.86818470001
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],3.30873969712
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])([H:9])[H:10].[O:1],2.52177107557
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-1.7584936657900003
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7],4.43685826514
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.797576434196
[C:2](=[O:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1][C:2](=[O:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.52613180362
[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8][H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9],-2.71530633618
[O:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:10]([H:11])([H:12])[H:13].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9],-0.21410405449
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.858646565649
[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.65993727907
[C:1].[C:2]([O:3][H:4])[O:5][C:6]#[C:7]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7],-4.20265523122
[O:1]=[C:2]([C:3][O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3][O:4][C:5][H:6],2.5586207813
[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.93865616295
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.00394763986
[H:1][O:2][C:3][C:9]([C:4][O:5][C:6]([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]1([H:10])[H:11],-2.4721427854
[C:7]([H:8])[H:9].[H:1][O:2][C:3][O:4][C:5][H:6]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-8.16760366823
[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]=[O:3],0.78790998446
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[C:11]([H:12])[H:13],-0.06302331629010001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],2.00228799368
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],8.01433436
